US07417065B2
A microwave vial is charged with 2-(4-chloro-3-trifluoromethyl-phenyl)-6-methylbenzothiazole (170 mg, 0.519 mmol), phenylboronic acid (95 mg, 1.5 eq.), KF (90 mg, 3 eq.), Pd(OAc)2 (6 mg, 5 mol %), (dicyclohexylphosphino)biphenyl (18 mg, 10 mol %) and THF (0.5 mL). The mixture is heated to 120° C. for 30 minutes using microwave irradiation. The mixture is then filtered through celite and washed with EtOAc. The filtrate is concentrated and purified by column chromatography (EtOAc/Hexane, 5/95) to give 120 mg (63%) of 6-methyl-2-(2-trifluoromethyl-biphenyl-4-yl)benzothiazole.

reactant | 2-(4-chloro-3-trifluoromethyl-phenyl)-6-methylbenzothiazole | 0.519 mmol, 170 mg | ClC1=C(C=C(C=C1)C=1SC2=C(N1)C=CC(=C2)C)C(F)(F)F | C15H9ClF3NS
reactant | phenylboronic acid | 95 mg, 1.5 eq. | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | KF | 90 mg, 3 eq. | [F-].[K+]
reactant | (dicyclohexylphosphino)biphenyl | 18 mg | C1(CCCCC1)P(C1CCCCC1)C1=C(C=CC=C1)C1=CC=CC=C1 | C24H31P
catalyst | Pd(OAc)2 | 6 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 6-methyl-2-(2-trifluoromethyl-biphenyl-4-yl)benzothiazole | 120 mg, 63% | CC1=CC2=C(N=C(S2)C2=CC(=C(C=C2)C2=CC=CC=C2)C(F)(F)F)C=C1 | C21H14F3NS
